US08703784B2
Step 5: Preparation of tert-butyl 3-(trifluoromethylsulfonyloxy)-8-azabicyclo[3.2.1]oct-3-ene-8-carboxylate
To a solution of N-Boc-nortropinone (6 g, 26.6 mmol) in THF (70 ml) at −78° C. was added LDA (2 M in haptane/THF/ethyl benzene, 20 ml, 40 mmol) slowly and the reaction mixture was stirred for 10 min. A solution of N-phenylbis(trifluoromethanesulfonimide) (10.5 g, 29.3 mmol) in THF (48 ml) was added. The reaction mixture was stirred at −78° C. for 30 min and the cooling bath was removed to warm it up to room temperature for 1.5 h until all N-Boc-nortropinone was utilized. Saturated NH4Cl solution (˜10 mL) was added and stirring was continued for 5 minutes before the reaction mixture was transferred to a separatory funnel using EtOAc (150 mL). The organics were then extracted with EtOAc (2×125 ml), and washed with water (2×30 ml), brine (1×30 ml), and dried over MgSO4. The solvent was removed in vacuo and the residue was purified by column chromatography on silica gel. Elution with EtOAc/Hexanes (0-35%) gave the desired product, tert-butyl 3-(trifluoromethylsulfonyloxy)-8-azabicyclo[3.2.1]oct-3-ene-8-carboxylate (8.5 g, 90%).

reactant | N-Boc-nortropinone | 26.6 mmol, 6 g | CC(C)(C)OC(=O)N1[C@@H]2CC[C@H]1CC(=O)C2 | C12H19NO3
reactant | LDA | 40 mmol, 2 M, 20 ml | [Li+].CC(C)[N-]C(C)C
reactant | THF ethyl benzene | C1CCOC1.C(C)C1=CC=CC=C1
reactant | N-phenylbis(trifluoromethanesulfonimide) | 29.3 mmol, 10.5 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | 48 ml | C1CCOC1 | C4H8O
product | tert-butyl 3-(trifluoromethylsulfonyloxy)-8-azabicyclo[3.2.1]oct-3-ene-8-carboxylate | 8.5 g, 90% | FC(S(=O)(=O)OC=1CC2CCC(C1)N2C(=O)OC(C)(C)C)(F)F | C13H18F3NO5S
